US06344580B1
treating said 5-chloro-2,2-dimethylpentanenitrile with a cyanide-delivering reagent in the presence of a phase-transfer catalyst to form 2,2-dimethyladiponitrile;

reactant | 5-chloro-2,2-dimethylpentanenitrile | ClCCCC(C#N)(C)C | C7H12ClN
reactant | cyanide | [C-]#N
product | 2,2-dimethyladiponitrile | CC(C#N)(CCCC#N)C | C8H12N2
